US07196052B2
The thus obtained 3-methylbutyl glycidyl ether (100 g), acetone (200 ml) and a 3% sulfuric acid aqueous solution (100 ml) were refluxed for 2 hours. Then, after concentration at 50° C./26 hPa, toluene (200 ml) was added to the residue and the resulting mixture was washed with a 3% sodium hydroxide aqueous solution (170 g). The mixture was further washed with saturated brine (150 g) three times and concentrated, and the concentrate was purified by distillation to give 3-methylbutoxypropane-1,2-diol (63 g) (bp: 115–116° C./2.6 hPa).

reactant | 3-methylbutyl glycidyl ether | 100 g | C(C1CO1)OCCC(C)C | C8H16O2
reactant | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 3-methylbutoxypropane-1,2-diol | 63 g | CC(CCOC(C(C)O)O)C | C8H18O3
